US05180735
In dimethylformamide (3 ml) was dissolved 4-O-chloroacetylcarbamoyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol (500 mg). To the solution was added thiomethoxide (156 mg), and the mixture was stirred for one hour. The reaction mixture was diluted with ether (50 ml), which was washed with a saturated aqueous solution of sodium chloride, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (carrier 25 g, developing solvent: ethyl acetate - hexane=2:1) to give 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-4-methylthioacetylcarbamoyloxy-1-methylthiomethylcyclohexanol (407 mg: yield 79%) as colorless powder.

reactant | 4-O-chloroacetylcarbamoyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol | 500 mg | ClCC(=O)NC(=O)OC1C(C(C(CC1)(O)CSC)C1(C(CC=C(C)C)O1)C)OC | C20H32ClNO6S
reactant | thiomethoxide | 156 mg | C[S-]
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-4-methylthioacetylcarbamoyloxy-1-methylthiomethylcyclohexanol | 407 mg, yield 79% | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)OC(NC(CC)=S)=O)(O)CSC | C21H35NO5S2
